US07041760B2
toluene was synthesized by the exchange reaction of ZnMe2 with B(C6F5)3 in toluene. A solution of B(C6F5)3(3.01 g, 5.88 mmol) in tuluene (50 mL) was treated with a solution of ZnMe2 in toluene (4.41 mL, 8.82 mmol, 2M) at room temperature. The mixture was stirred for 30 minutes. Removal of volatiles left a white solid which was recrystallized from light petroleum (60 mL) at −20° C. overnight to give Zn(C6F5)2.toluene as needle-like crystals, yield 3.33 g (76.6%). Anal. Calcd. for C12F10Zn.C7H8: C, 46.42; H, 1.64. Found: C, 45.93; H, 1.46. 1H NMR (300 MHz, 25° C., C6D6): δ6.98–7.13 (m, 5 H, Ph), 2.10 (s, 3H, Me). 19F(C6D6): δ−118.3 (m, 4 F, o-F), −152.9 (t, 2 F, JFF=19.8 Hz, p-F), −160.9 (m, 4 F, m-F).

reactant | ZnMe2 | [Zn](C)C
reactant | B(C6F5)3 | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
reactant | B(C6F5)3 | 5.88 mmol, 3.01 g | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8.82 mmol, 2M, 4.41 mL | C1(=CC=CC=C1)C | C7H8
product | Zn(C6F5)2 | [Zn](C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | InChI=1S/2C6F5.Zn/c2*7-2-1-3(8)5(10)6(11)4(2)9;
